US04769384
(2) Methyl 2,3-diaminobenzoate
A mixture of 5 g 5% palladium-carbon, 2.8 liters of methanol, 59 g of potassium acetate (anhydride), and 138.4 g methyl 5-chloro-3-nitroanthranilate was subjected to hydrogen absorption with stirring and cooling with a water bath. When the hydrogen absorption was completed, the reaction mixture was filtered, and the filtrate was concentrated in vacuo. To the residue were added ice and 1 lit mixture of n-hexane:ethyl acetate (6:4) and separated. The organic solvent layer was washed with saturated sodium bicarbonate solution, then washed with saturated sodium chloride solution, dried with anhydrous magnesium sulfate, and concentrated in vacuo to give dark brown crystals, m.p. 59°-61° C.

reactant | potassium acetate | 59 g | C(C)(=O)[O-].[K+]
reactant | methyl 5-chloro-3-nitroanthranilate | 138.4 g | ClC1=CC(=C(C(C(=O)OC)=C1)N)[N+](=O)[O-] | C8H7ClN2O4
catalyst | palladium-carbon | 5 g | [C].[Pd]
solvent | methanol | 2.8 liters | CO | CH4O
product | Methyl 2,3-diaminobenzoate | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
